US07365069B2
N-(3,4-Dimethylphenyl)-4-(methylthio)benzenecarboximidamide
To a solution of 3,4-dimethylaniline (10 g, 83 mmol) in THF (10 ml), lithium bis(trimethylsilyl)amide (20% in THF, 93 ml, 99 mmol) was added under stirring in nitrogen blanket for a period of 20 minutes followed by 4-methylthiobenzonitrile (12.31 g, 83 mmol) over a period of 10 min. After 1 hour the reaction mixture was poured over ammonium chloride solution (30%, 100 ml). The resultant mixture was extracted with ethyl acetate and washed with water, dried over anhydrous sodium sulphate. The ethyl acetate extract was concentrated to yield the title compound (19 g, yield 85.1%, mp 111-113° C., purity 99.1% by HPLC). 1H-NMR (CDCl3):δ 2.23-2.24 (d, 6H), 2.51 (s, 3H), 4.81 (bs, 2H, D2O exchangeable), 6.70-6.72 (m, 1H), 6.77 (s, 1H), 7.08-7.1 (d, 1H), 7.25-7.27 (d, 2H), 7.76-7.78 (d, 2H). MS m/z: 271.3 (M+).

reactant | 3,4-dimethylaniline | 83 mmol, 10 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | lithium bis(trimethylsilyl)amide | 99 mmol, 93 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-methylthiobenzonitrile | 83 mmol, 12.31 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(3,4-Dimethylphenyl)-4-(methylthio)benzenecarboximidamide | 19 g, yield 85.1% | CC=1C=C(C=CC1C)NC(=N)C1=CC=C(C=C1)SC | C16H18N2S
